US07196104B2
Preparation DF: 4-pyrrolidin-1-ylmethylphenol
To a stirred solution of 4-hydroxylbenzaldehyde (10 g, 81.9 mmol) in anhydrous CH2Cl2 (500 mL) at RT, under N2, pyrrolidine (10.2 mL, 122.9 mmol) was added, followed by NaBH(OAc)3 (34.6 g, 163.9 mmol) and AcOH (19.7 g, 327.8 mmol). After the mixture was stirred at RT for 24 h, a saturated solution of NaHCO3(aq) (150 mL) was added. The mixture was vigorously stirred for an additional 1 h and then extracted with CH2Cl2 (3×200 mL). The combined organic layer was washed with brine (300 mL), dried over MgSO4, filtered and concentrated under reduced pressure to yield the title compound as amber oil. This was used crude in the next step. MS m/z: 178 (M+1). Calc'd for C11H15NO-177.2.

reactant | 4-hydroxylbenzaldehyde | 81.9 mmol, 10 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | pyrrolidine | 122.9 mmol, 10.2 mL | N1CCCC1 | C4H9N
reactant | NaBH(OAc)3 | 163.9 mmol, 34.6 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | AcOH | 327.8 mmol, 19.7 g | CC(=O)O | C2H4O2
reactant | NaHCO3 | 150 mL | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 500 mL | C(Cl)Cl | CH2Cl2
product | 4-pyrrolidin-1-ylmethylphenol | N1(CCCC1)CC1=CC=C(C=C1)O | C11H15NO
